US04889929
A mixture of ampicillin trihydrate (15 g), methylaceto acetate (5.65 g), triethylamine (4.05 g) and acetone (7.5 ml) was stirred at 40° C. for 3 hours. Acetone (30 ml) and sodium bicarbonate (12.4 g) were added. 1-Bromoethyl ethyl carbonate (14.6 g) was added dropwise during 1 hour. Stirring was continued at 40° C. for 1 hour. Water (37.5 ml) was added and the reaction was stirred at 20° C. for 1 hour. Ethyl acetate (37.5 ml) was added and the phases separated. The organic phase was washed with 20% sodium chloride solution. Acetone (7.5 ml) was added and a solution of ca. 16% hydrochloric acid was added slowly until a stable pH of 2.2 was obtained. The addition takes 11/2-2 hours. The solution was dried over anhydrous sodium sulfate and filtered. Butyl acetate (45 ml) was added and the solution was evaporated in vacuo to remove most of the solvents (bath temperature 35° C.). More butyl acetate (50 ml) was added and partially distilled. The resulting slurry was cooled for several hours and filtered to give 11.6 g bacampicillin.

reactant | ampicillin trihydrate | 15 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C.O.O.O
reactant | methylaceto acetate | 5.65 g | COC(CC(=O)C)=O | C5H8O3
reactant | sodium bicarbonate | 12.4 g | C([O-])(O)=O.[Na+]
reactant | 1-Bromoethyl ethyl carbonate | 14.6 g | C(OC(C)Br)(OCC)=O | C5H9BrO3
solvent | Ethyl acetate | 37.5 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 37.5 ml | O | H2O
solvent | Acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 7.5 ml | CC(=O)C | C3H6O
solvent | triethylamine | 4.05 g | C(C)N(CC)CC | C6H15N
product | bacampicillin | 11.6 g | CCOC(=O)OC(C)OC(=O)[C@H]1C(S[C@H]2N1C(=O)[C@H]2NC(=O)[C@@H](C=3C=CC=CC3)N)(C)C | C21H27N3O7S
